* Knowm AHaH memristor-based node models: experimental behavioral models.
* Developed for Xyce/Qucs-S.
*
*
* This is free software; you can redistribute it and/or modify
* it under the terms of the GNU General Public License as published by
* the Free Software Foundation; either version 2, or (at your option)
* any later version.
*
* Copyright Michael Arendall July 2017 miche.arendall@gmail.com
*
************************************************************************************
.subckt AHAH-FFRX nout1 nout2
.PARAM period={1/(PulseFreq+1e-20)}
.PARAM p1={period}
.PARAM p2={period}
.PARAM p3={0.5*p1}
.PARAM p4={0.5*p2}
Inout1 0 nout1 dc 0 ac 0 pulse( 0 {ScaleFactor} 0 1n 1n {p1} {p2})
Rout1 nout1 0 1
Inout2 0 nout2 dc 0 ac 0 pulse( 0 {ScaleFactor} 0 1n 1n {p3} {p4})
Rout2 nout2 0 1
.ends AHAH-FFRX